US07423056B2
e.) 5-Chloro-6-methyl-3,3a,7,7a-tetrahydro-1H-4-thia-2-aza-cyclopenta[α]pentalene-2-carboxylic acid ethyl ester
Aluminum chloride (131.7 mg, 0.990 mmol) was added to a round bottom flask, cooled to 0° C. and diluted with anhydrous CH2Cl2 (3.3 ml). Next, tert-butylaminoborane (172 mg, 1.98 mmol) was added and the contents were stirred for 30 minutes. A solution of 5-Chloro-6-hydroxymethyl-3,3a,7,7a-tetrahydro-1H-4-thia-2-aza-cyclopenta[α]pentalene-2-carboxylic acid ethyl ester (99.7 mg, 0.33 mmol) in CH2Cl2 (330 μl) was added to the AlC13/t-butylaminoborane complex. The reaction mixture slowly warmed to room temperature and stirred for 16 hours. Next, the contents were carefully poured into 15% NaOH and extracted with CH2Cl2 (2×50 ml). The organic layer was dried (MgSO4), solvent evaporated in vacuo, and the residue purified by preparative TLC (hexanes:EtOAc-7:3) to give the subtitle compound. MS calculated for C13H16ClNO2S+H 286, observed 286.

reactant | Aluminum chloride | 0.990 mmol, 131.7 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | tert-butylaminoborane | 1.98 mmol, 172 mg | C(C)(C)(C)NB | C4H12BN
reactant | 5-Chloro-6-hydroxymethyl-3,3a,7,7a-tetrahydro-1H-4-thia-2-aza-cyclopenta[α]pentalene-2-carboxylic acid ethyl ester | 0.33 mmol, 99.7 mg | C(C)OC(=O)N1CC2CC3=C(C2C1)SC(=C3CO)Cl | C13H16ClNO3S
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 3.3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 330 μl | C(Cl)Cl | CH2Cl2
product | 5-Chloro-6-methyl-3,3a,7,7a-tetrahydro-1H-4-thia-2-aza-cyclopenta[α]pentalene-2-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2CC3=C(C2C1)SC(=C3C)Cl | C13H16ClNO2S
